US05700824
Preparation of 3-(2-chloro-6-fluorophenyl)-5-[2-chloro-4-(3-chloro-5-trifluoromethylpyridine-2-yloxymethyl)phenyl]-1-methyl-1H-1,2,4-triazole (Compound No. 317)
3-(2-chloro-6-fluorophenyl)-5-(2-chloro-4-hydroxymethylphenyl)-1-methyl-1H-1,2,4-triazole (0.50 g) is dissolved in 1,2-dimethoxyethane (20 ml) and cooled to 0° C., to which is added sodium hydride (60%, 0.07 g) and the reaction mixture is stirred for 15 minutes. Then, a solution of 2,3-dichloro-5-trifluoromethyl pyridine (0.34 g) in 1,2-dimethoxyethane (10 ml) is added dropwise and stirred for 3 hours. On completion of the reaction, the reaction solution is warmed to room temperature and poured into water and extracted with ether. The organic layer is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate is purified by silica gel column chromatography to give 0.62 g of desired compound.

reactant | 3-(2-chloro-6-fluorophenyl)-5-(2-chloro-4-hydroxymethylphenyl)-1-methyl-1H-1,2,4-triazole | 0.50 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=C(C=C(C=C1)CO)Cl)C | C16H12Cl2FN3O
reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | 2,3-dichloro-5-trifluoromethyl pyridine | 0.34 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 3-(2-chloro-6-fluorophenyl)-5-[2-chloro-4-(3-chloro-5-trifluoromethylpyridine-2-yloxymethyl)phenyl]-1-methyl-1H-1,2,4-triazole | 0.62 g | ClC1=C(C(=CC=C1)F)C1=NN(C(=N1)C1=C(C=C(C=C1)COC1=NC=C(C=C1Cl)C(F)(F)F)Cl)C | C22H13Cl3F4N4O
